US07262201B1
A suspension of 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (150 mg, 0.44 mol), (prepared as described for the starting material in Example 2), and 3-isobutyl-4,5-dihydro-1H-pyrazol-5-one (75 mg, 0.53 mol), (Org. Synth. 1976, 55, 73), in DMF (2 ml) containing potassium carbonate (92 mg, 0.67 mol) was heated at 100° C. for 2.5 hours. After cooling, water was added and the aqueous layer was adjusted to pH6.5 with 2M hydrochloric acid. Ethyl acetate was added. The organic layer was separated, washed with water, brine, dried (MgSO4) and the volatiles were removed by evaporation. The residue was purified by column chromatography eluting the ethyl acetate/methylene chloride (1/1) followed by methanol/ethyl acetate/methylene chloride (1/4/5) and by methanol/methylene chloride (1/9) to give 4-(5-isobutylpyrazol-3-yloxy)-6-methoxy-7-(3-morpholinopropoxy)quinazoline (85 mg, 43%).

reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.44 mol, 150 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | 3-isobutyl-4,5-dihydro-1H-pyrazol-5-one | 0.53 mol, 75 mg | C(C(C)C)C1=NNC(C1)=O | C7H12N2O
reactant | potassium carbonate | 0.67 mol, 92 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-(5-isobutylpyrazol-3-yloxy)-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 85 mg, 43% | C(C(C)C)C1=CC(=NN1)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C23H31N5O4
